US06949542B2
7-Propoxy-4-(3-pyridin-3-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-propoxy-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M195) (359 mg, 0.626 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (223 mg, 81%).

reactant | {2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-propoxy-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.626 mmol, 359 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCC)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C29H30F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Propoxy-4-(3-pyridin-3-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(CC)OC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C=C1C(F)(F)F | C24H20F3N3O2
